US09059412B2
A solution of 1-phenyl-1H-benzo[4,5]thieno[2,3-d]imidazole (4 g, 16 mmol) and methyl iodide (11.36 g, 80 mmol) in EtOAc (100 ml) was stirred for 48 h at room temperature. The precipitate was isolated by filtration and washed thoroughly with EtOAc to yield 3-methyl-1-phenyl-1H-benzo[4,5]thieno[2,3-d]imidazol-3-ium iodide (5.52 g, 88%) as a white solid.

reactant | 1-phenyl-1H-benzo[4,5]thieno[2,3-d]imidazole | 16 mmol, 4 g | C1(=CC=CC=C1)N1C=NC2=C1C1=C(S2)C=CC=C1 | C15H10N2S
reactant | methyl iodide | 80 mmol, 11.36 g | CI | CH3I
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-methyl-1-phenyl-1H-benzo[4,5]thieno[2,3-d]imidazol-3-ium iodide | 5.52 g, 88% | [I-].C[N+]1=CN(C2=C1SC1=C2C=CC=C1)C1=CC=CC=C1 | InChI=1S/C16H13N2S.HI/c1-17-11-18(12-7-3-2-4-8-12)15-13-9-5-6-10-14(13)19-16(15)17;/h2-11H,1H3;1H/q+1;/p-1
